US20010018525A1
To a solution of N-methyl-8-phenyloctanamide (25.2 g, 108.0 mmol, 1 eq) in THF (500 mL) cooled to 0° C. was added lithium aluminum hydride (12.3 g, 466.8 mmol, 4.3 eq) portionwise over 20 minutes. The cold bath was removed and the reaction was stirred at rt 3 hours. The reaction was then heated at reflux for 2 _hours. It was then cooled to rt and quenched by the slow addition of H2O (30 mL). EtOAc (300 mL) was added, followed by 2 M NaOH (40 mL). The solids were then filtered off and washed with EtOAc. The filtrate was dried over MgSO4 and concentrated in vacuo to afford N-methyl-N-(8-phenyloctyl)amine (19.7 g, 83%) as a light yellow oil. 1H NMR (CDCl3) δ7.30-7.14 (m, 5H); 2.63-2.52 (m, 4H); 2.43 (s, 3H); 2.05 (s, 1H); 1.62 (m, 4H); 1.30 (m, 8H).

reactant | N-methyl-8-phenyloctanamide | 108.0 mmol, 25.2 g, 1 eq | CNC(CCCCCCCC1=CC=CC=C1)=O | C15H23NO
reactant | lithium aluminum hydride | 466.8 mmol, 12.3 g, 4.3 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-methyl-N-(8-phenyloctyl)amine | 19.7 g, 83% | CNCCCCCCCCC1=CC=CC=C1 | C15H25N
